US07585880B2
methyl 3-{4-[(4-{[(2-phenylethyl)(4-propyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate
To a solution of N-(2-phenylethyl)-4-propyl-1,3-thiazole-2-amine (246 mg) in N,N-dimethylformamide (2 mL) was added sodium hydride (40 mg), and the mixture was stirred at room temperature for 1 hr. Methyl 3-(4-{[4-(chloromethyl)benzyl]-oxy}phenyl)propanoate (318 mg) was added to the reaction mixture at room temperature, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-1:1 in volume ratio) to give the title compound (380 mg) as a yellow oil.

reactant | N-(2-phenylethyl)-4-propyl-1,3-thiazole-2-amine | 246 mg | C1(=CC=CC=C1)CCNC=1SC=C(N1)CCC | C14H18N2S
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]-oxy}phenyl)propanoate | 318 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | methyl 3-{4-[(4-{[(2-phenylethyl)(4-propyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate | 380 mg | C1(=CC=CC=C1)CCN(C=1SC=C(N1)CCC)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C32H36N2O3S
